US04731368
Step A: Preparation of 6-Acetylthieno[3,2-b]pyridine oxime
To a solution of 6-acetylthieno[3,2-b]pyridine (3.78 g, 21.3 mmol) in pyridine (40 ml) and ethanol (40 ml), under a nitrogen atmosphere, was added hydroxyl amine hydrochloride (5.0 g, 72 mmol). After the reaction mixture was heated at 80° C. for three hours, the solvents were removed under reduced pressure on a rotary evaporator and the residue was diluted with ice water to give crystalline product. This solid was collected by filtration and dissolved in ethyl acetate/methanol, dried over anhydrous sodium sulfate and filtered through charcoal. The solvents were evaporated to give pure product (3.15 g, 77% yield) which was used as is. A small portion was recrystallized from methanol for microanalysis, m.p 210°-213° C.

reactant | 6-acetylthieno[3,2-b]pyridine | 21.3 mmol, 3.78 g | C(C)(=O)C=1C=C2C(=NC1)C=CS2 | C9H7NOS
reactant | hydroxyl amine hydrochloride | 72 mmol, 5.0 g | Cl.ON
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 6-Acetylthieno[3,2-b]pyridine oxime | 3.15 g, 77% yield | C(C)(C=1C=C2C(=NC1)C=CS2)=NO | C9H8N2OS
